US08293735B2
3-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1-oxa-4,9-diaza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester using 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester in place of 4-ethoxy-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester. The title compound was obtained as a cream solid (245 mg, 58%).

reactant | 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1-oxa-4,9-diaza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CN(CCO2)CC2=CC=3N=C(N=C(C3S2)N2CCOCC2)Cl)CC1 | C24H34ClN5O4S
reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
product | 3-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)CC2=CC=1N=C(N=C(C1S2)N2CCOCC2)Cl | C22H30ClN5O3S
